US07414050B2
a) 5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
To a solution of 4-methylimidazole (2.70 g, 33.0 mmol) in 10 mL of acetonitrile at 0° C. was added triethylamine (NEt3) (4.00 g, 39.6 mmol) and acetyl chloride (2.80 g, 36.3 mmol). The mixture was allowed to attain RT then filtered to remove the ppt and the filtrate was concentrated to give 1-(4-methyl-imidazol-1-yl)-ethanone, which was used without further purification in the next step. To a solution of 1-(4-methyl-imidazol-1-yl)-ethanone (4.10 g, 33.0 mmol) in 15 mL acetonitrile was added SEM-Cl (5.80 g, 35.0 mmol) and the solution was stirred at 25° C. for 10 h. The solvents were removed by evaporation and to the residue was added 100 mL of 2.5 M NaOH and the mixture was stirred at 25° C. for 1 h. The reaction mixture was then extracted with ether (3×100 mL), dried over Na2SO4 and concentrated. The title compound was purified by chromatography on silica gel eluting with 75% EtOAc/hexanes to give 4.30 g (61%) of a colorless oil: Mass spectrum (ESI, m/z): Calcd. for C10H20N2O4Si, 213.1 (M+H). found 213.1.

reactant | 1-(4-methyl-imidazol-1-yl)-ethanone | 33.0 mmol, 4.10 g | CC=1N=CN(C1)C(C)=O | C6H8N2O
reactant | SEM-Cl | 35.0 mmol, 5.80 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 4.30 g, 61% | CC1=CN=CN1COCC[Si](C)(C)C | C10H20N2OSi
